US07858621B2
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (100 mg, 0.357 mmol) was reacted with 3-thienyl boronic acid (2 eq) to give 3-(2-thien-3-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (80 mg, 68%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.357 mmol, 100 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C11H9ClF3NO2
reactant | 3-thienyl boronic acid | 2 eq | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 3-(2-thien-3-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 80 mg, 68% | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C1=CSC=C1)=O | C15H12F3NO2S
